US08623889B2
To a solution of 5-bromo-4-methylpyridin-3-amine (128.9 mg, 0.6892 mmol) in tetrahydrofuran (4.0 mL, 49 mmol) at 0° C. was added 1.4 M of methylmagnesium bromide in toluene (0.55 mL). After stirring at 0° C. for 10 minutes, methyl tetrahydro-2H-pyran-4-carboxylate (92.00 g, 638.1 mmol) was added. The reaction mixture was stirred overnight while warming to room temperature. The reaction mixture was poured into dichloromethane, washed with saturated aqueous NaHCO3, dried over MgSO4, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-10% methanol in dichloromethane) to yield 53.5 mg (26%) of N-(5-bromo-4-methylpyridin-3-yl)tetrahydro-2H-pyran-4-carboxamide. LCMS (ESI): M+H=299.2.

reactant | 5-bromo-4-methylpyridin-3-amine | 0.6892 mmol, 128.9 mg | BrC=1C(=C(C=NC1)N)C | C6H7BrN2
reactant | tetrahydrofuran | 49 mmol, 4.0 mL | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | 1.4 M | C[Mg]Br
reactant | methyl tetrahydro-2H-pyran-4-carboxylate | 638.1 mmol, 92.00 g | O1CCC(CC1)C(=O)OC | C7H12O3
solvent | toluene | 0.55 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-bromo-4-methylpyridin-3-yl)tetrahydro-2H-pyran-4-carboxamide | 53.5 mg, 26% | BrC=1C(=C(C=NC1)NC(=O)C1CCOCC1)C | C12H15BrN2O2
